US05455356
In the same apparatus and procedures as Example 4-ii) was prepared 15.3 g (0.079 mol) of 2,4-difluorophenylmagnesiumbromide solution in THF, and the followed by coupling with 1-chloro-1-chloromethyl-1-silacyclopentane prepared from the above procedure i) for 1hr at 60° C. In the same method as Example 1 was treated the reaction product to give 3.5 g of 1-chloromethyl -1-(2,4-difluorophenyl)-1-silacyclopentane (56°-7° C. /0.3 mmHg).

reactant | 2,4-difluorophenylmagnesiumbromide | 0.079 mol, 15.3 g | FC1=C(C=CC(=C1)F)[Mg]Br
reactant | 1-chloro-1-chloromethyl-1-silacyclopentane | Cl[Si]1(CCCC1)CCl | C5H10Cl2Si
solvent | THF | C1CCOC1 | C4H8O
product | 1-chloromethyl -1-(2,4-difluorophenyl)-1-silacyclopentane | 3.5 g | ClC[Si]1(CCCC1)C1=C(C=C(C=C1)F)F | C11H13ClF2Si
